US04762829
N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-2-hydroxymethylpiperidine
The procedure of Example 1 was repeated except that 6.1 g of 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid and 3.5 g of 2-hydroxymethylpiperidine were used as starting materials. 7.5 g (yield 94%) of the title compound was obtained as a colorless oil.

reactant | 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid | 6.1 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O2
reactant | 2-hydroxymethylpiperidine | 3.5 g | OCC1NCCCC1 | C6H13NO
product | N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-2-hydroxymethylpiperidine | 7.5 g, yield 94% | CC(=CC(=O)N1C(CCCC1)CO)CCC=C(CCC=C(CCC=C(C)C)C)C | C26H43NO2
